US04183951
3,4,5-Trimethoxyphenol-carbamoyl-acetohydroxamic acid Code No. CRL 40,509
4.15 g (0.18 gram atom) of sodium are added in small pieces to 100 ml of anhydrous methanol and this cold solution is then poured into a solution of 7 g (0.1 mol) of hydroxylamine hydrochloride in 100 ml of methanol; the sodium chloride is filtered off and 23.8 g (0.08 mol) of ethyl 3,4,5-trimethoxyphenylcarbamoylacetate are added to the filtrate. The reactants are left in contact overnight, the mixture is evaporated to dryness in vacuo, the residue is taken up in water, the solution is acidified with 3 N HCl and the product is filtered off and washed with cold water and with diisopropyl ether. recrystallisation from methanol gives CRL 40,509. Melting point=195°-196° C. (with decomposition).

reactant | sodium | 4.15 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 0.1 mol, 7 g | Cl.NO
reactant | ethyl 3,4,5-trimethoxyphenylcarbamoylacetate | 0.08 mol, 23.8 g | COC=1C=C(C=C(C1OC)OC)NC(=O)CC(=O)OCC | C14H19NO6
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3,4,5-Trimethoxyphenol carbamoyl-acetohydroxamic acid | COC=1C=C(C=C(C1OC)OC)O.C(N)(=O)CC(=O)NO | InChI=1S/C9H12O4.C3H6N2O3/c1-11-7-4-6(10)5-8(12-2)9(7)13-3;4-2(6)1-3(7)5-8/h4-5,10H,1-3H3;8H,1H2,(H2,4,6)(H,5,7)
